US06437171B1
A yellowish solution of 0.87 g (2.5 mmol) (3R,4S,5R)-5-amino-3-(1-ethyl-propoxy)-4-methanesulfonyloxy-cyclohex-1-enecarboxylic acid ethyl ester and 0.17 ml (2.5 mmol) of ethylenediamine in 4.4 ml ethanol was heated to reflux for 1 hour. The resulting suspension was evaporated in a rotary evaporator to dryness and the residue was suspended in 5 ml ethyl acetate, extracted with 2 ml aqueous 1M NaHCO3 solution, dried over Na2SO4, filtered and evaporated in a rotary evaporator at reduced pressure to dryness to yield 0.52 g (82%) of (1R,5R,6S) 5-(1-ethyl-propoxy)-7-aza-bicyclo[4.1.0]hept-3-ene-3-carboxylic acid ethy as a yellow oil. IR (film): 3312, 2966, 2936, 2877, 1715, 1660, 1464, 1254, 1083, 1057, 799 cm−1; MS (EI, 7o eV)): 253 (M+), 224, 208, 182, 166, 110 m/z.

reactant | (3R,4S,5R)-5-amino-3-(1-ethyl-propoxy)-4-methanesulfonyloxy-cyclohex-1-enecarboxylic acid ethyl ester | 2.5 mmol, 0.87 g | C(C)OC(=O)C1=C[C@H]([C@H]([C@@H](C1)N)OS(=O)(=O)C)OC(CC)CC | C15H27NO6S
reactant | ethylenediamine | 2.5 mmol, 0.17 ml | C(CN)N | C2H8N2
solvent | ethanol | 4.4 ml | C(C)O | C2H6O
product | (1R,5R,6S) 5-(1-ethyl-propoxy)-7-aza-bicyclo[4.1.0]hept-3-ene-3-carboxylic acid | 0.52 g, 82% | C(C)C(CC)O[C@@H]1C=C(C[C@H]2N[C@H]12)C(=O)O | C12H19NO3
